US07968720B2
Cyclopropanecarboxylic acid 4-chloro-3-hydroxymethyl-benzylamide
Aq. 1M NaOH (111 mL) was added to a sol. of cyclopropanecarboxylic acid 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzylamide (6.10 g, 17.2 mmol) in MeOH (222 mL). The mixture was heated to 80° C., and stirred at this temperature for 30 min. The mixture was allowed to cool to rt, and the solvents were partially removed under reduced pressure. The aq. residue was diluted with water, and was extracted with EtOAc (3×). The combined org. extracts were washed with brine, dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC(CH2Cl2→MeOH/CH2Cl2 1:9) yielded the title compound (3.47 g, 84%). LC-MS: tR=0.71 min; ES+: 281.31.

reactant | NaOH | 1M, 111 mL | [OH-].[Na+]
reactant | cyclopropanecarboxylic acid 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzylamide | 17.2 mmol, 6.10 g | C(C)(C)(C)[SiH2]OC(C=1C=C(CNC(=O)C2CC2)C=CC1Cl)(C)C | C18H28ClNO2Si
solvent | MeOH | 222 mL | CO | CH4O
product | Cyclopropanecarboxylic acid 4-chloro-3-hydroxymethyl-benzylamide | 3.47 g, 84% | ClC1=C(C=C(CNC(=O)C2CC2)C=C1)CO | C12H14ClNO2
